US07776869B2
Synthesis of 4-Chloro-3-iodo-N-(3-(trifluoromethoxy)phenyl)benzamide
4-Chloro-3-iodo-N-(3-(trifluoromethoxy)phenyl)benzamide was synthesized from 3-(trifluoromethoxy)aniline and 4-chloro-3-iodobenzoylchloride according to the procedure described in Example 183, affording the title compound as a white solid. MS (M−H+) 439.8; Calculated for C14H8ClF3INO2: 441.

reactant | 3-(trifluoromethoxy)aniline | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | 4-chloro-3-iodobenzoylchloride | ClC1=C(C=C(C(=O)Cl)C=C1)I | C7H3Cl2IO
product | 4-Chloro-3-iodo-N-(3-(trifluoromethoxy)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=CC=C2)OC(F)(F)F)C=C1)I | C14H8ClF3INO2
